US05374636
(1R,2R,3S)-2-(4-Chlorophenoxy-methyl)-3-(4-fluorophenyl)tropane, hydrochloride.
A mixture of (1R,2R,3S)-2-hydroxymethyl-3-(4-fluorophenyl)tropane (1.8 g, 7.2 mmol), p-toluene-sulphonylchloride (2 g, 10.5 mmol) and triethyl amine (1.6 ml, 2 mmol) in methylene chloride (50 ml) was stirred at room temperature for 20 hours and the reaction mixture was concentrated in vacuo. Water (50 ml) and diethyl ether (50 ml) was added and the mixture was stirred for 1/2 hour. The organic phase was washed once with sodium hydroxide (1M), twice with water, and was then dried and concentrated in vacuo. The remanescens was dissolved in a small amount of absolute ethanol and was, at room temperature, added to a solution of sodium 4-chloro-phenolate in absolute ethanol, made by addition of sodium (0.24 g, 10 mmol) to a solution of p-chlorophenol in absolute ethanol. The mixture was refluxed for three days and was concentrated in vacuo. The remanescens was stirred in a mixture of water and diethyl ether and the organic phase was washed with water. After drying and concentration in vacuo, the crude product was subjected to column chromatography first with ethyl acetate and later with ethyl acetate and methanol (10%) as eluent. An oil was isolated which was dissolved in a small amount of diethyl ether and the title compound was precipitated, by addition of hydrochloric acid in diethyl ether, as white crystals (hygroscopic), m.p. 70°-75° C.

reactant | (1R,2R,3S)-2-hydroxymethyl-3-(4-fluorophenyl)tropane | 7.2 mmol, 1.8 g | OC[C@H]1[C@H]2CC[C@@H](C[C@@H]1C1=CC=C(C=C1)F)N2C | C15H20FNO
reactant | p-toluene-sulphonylchloride | 10.5 mmol, 2 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethyl amine | 2 mmol, 1.6 ml | C(C)N(CC)CC | C6H15N
reactant | sodium | 10 mmol, 0.24 g | [Na] | Na
reactant | p-chlorophenol | ClC1=CC=C(C=C1)O | C6H5ClO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (1R,2R,3S)-2-(4-Chlorophenoxy-methyl)-3-(4-fluorophenyl)tropane, hydrochloride | Cl.ClC1=CC=C(OC[C@H]2[C@H]3CC[C@@H](C[C@@H]2C2=CC=C(C=C2)F)N3C)C=C1 | InChI=1S/C21H23ClFNO.ClH/c1-24-17-8-11-21(24)20(13-25-18-9-4-15(22)5-10-18)19(12-17)14-2-6-16(23)7-3-14;/h2-7,9-10,17,19-21H,8,11-13H2,1H3;1H/t17-,19+,20+,21+;/m0./s1
